US05399588
5-Bromo-6-methoxy-2-naphthalenemethanol
Step d) Sodium borohydride (4.78 g, 128.3 mmol) was added portionwise in to a cold (0° C.) mixture of 5-bromo-6-methoxy-2-naphthldehyde (34.0 g, 128.3 mmol) in methanol (300 ml) and THF (200 mL). After stirring for 30 minutes the mixture was poured in to water and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (hexane/EtOAc 2/1) gave a yellow solid (30.5 g, 90% yield, m.p. 85°-87° C.).

reactant | Sodium borohydride | 128.3 mmol, 4.78 g | [BH4-].[Na+]
reactant | 5-bromo-6-methoxy-2-naphthldehyde | 128.3 mmol, 34.0 g | BrC1=C2C=CC(=CC2=CC=C1OC)C=O | C12H9BrO2
reactant | water | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-Bromo-6-methoxy-2-naphthalenemethanol | 30.5 g, 90% yield | BrC1=C2C=CC(=CC2=CC=C1OC)CO | C12H11BrO2
